US07888503B2
A 5 mL microwave tube was charged with (5-bromo-2-fluorophenyl)-(phenyl)methanol (1 eq), tributyl-(1-ethoxyvinyl)tin (1 eq), tetraethylammonium chloride (3 eq), bis(triphenylphosphine)palladium(II) chloride (10 mol %) and acetonitrile (3.5 mL). The reaction was heated to 150° C. for one hour using microwave irradiation. The reaction was concentrated to dryness and the residue was taken up in water and extracted with ethyl acetate. The organics were dried over magnesium sulfate, filtered and then concentrated to an oil. Purification by silica gel chromatography provided 1-{4-fluoro-3-[hydroxy(phenyl)methyl]phenyl}ethanone as an oil. H1 NMR (d6-dmso): 8.16 (dd, 1H), 7.89 (m, 1H), 7.18-7.34 (m, 6H), 6.14 (d, 1H), 5.93 (d, 1H), 2.53 (s, 3H).

reactant | (5-bromo-2-fluorophenyl)-(phenyl)methanol | 1 eq | BrC=1C=CC(=C(C1)C(O)C1=CC=CC=C1)F | C13H10BrFO
reactant | tributyl-(1-ethoxyvinyl)tin | 1 eq | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
catalyst | tetraethylammonium chloride | 3 eq | [Cl-].C(C)[N+](CC)(CC)CC
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 1-{4-fluoro-3-[hydroxy(phenyl)methyl]phenyl}ethanone | FC1=C(C=C(C=C1)C(C)=O)C(C1=CC=CC=C1)O | C15H13FO2
